US04410539
Sodium hydride (0.22 g. of 50% dispersion in mineral oil) was added portionwise with stirring to a solution of imidazole (0.306 g.) in dry N,N-dimethylformamide (10 ml.) and the mixture was stirred at room temperature for 30 minutes and then warmed for a few minutes. 5-(2-Chloroethoxy)benzo[b]thiophene-2-carboxylic acid methyl ester (1.22 g.) was then added and the mixture was heated on a steam bath for 5 hours, and then cooled and poured into water. The mixture was extracted several times with ethyl acetate and the combined extracts were washed well with water and dried (Na2SO4). Evaporation of the solvent gave an oil which was chromatographed on silica gel. Elution with chloroform gave first mineral oil and some impurity followed by pure product. The product containing fractions were evaporated to give a solid which was crystallized from ethyl acetate/petrol (b.p. 60°-80°) to give 5-[2-(1-imidazolyl)ethoxy]benzo[b]thiophene-2-carboxylic acid methyl ester (0.45 g.), m.p. 127°-129° C.

reactant | Sodium hydride | 0.22 g | [H-].[Na+]
reactant | imidazole | 0.306 g | N1C=NC=C1 | C3H4N2
reactant | 5-(2-Chloroethoxy)benzo[b]thiophene-2-carboxylic acid methyl ester | 1.22 g | COC(=O)C1=CC2=C(S1)C=CC(=C2)OCCCl | C12H11ClO3S
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-[2-(1-imidazolyl)ethoxy]benzo[b]thiophene-2-carboxylic acid methyl ester | 0.45 g | COC(=O)C1=CC2=C(S1)C=CC(=C2)OCCN2C=NC=C2 | C15H14N2O3S
